US07645752B2
Step 2: Preparation of 3-(phenylsulfonyl)-5-(2-piperazin-1-ylethyl)-1H-indole hydrochloride:
A stirred mixture of 5-[2-(4-benzylpiperazin-1-yl)ethyl]-3-(phenylsulfonyl)-1H-indole (0.110 g, 0.24 mmol) and 1-chloroethylchloroformate (0.05 mL, 0.36 mmlole) in 1,2-dichloroethane (2 mL) was heated to reflux for 12 hours. The reaction mixture was cooled and concentrated in vacuo to a brown glass. The glass was taken up in methanol (4 mL) and heated to reflux for 6 h, then cooled and concentrated in vacuo to a semi solid. This solid was dissolved in diethyl ether and treated with 1 N HCl in diethyl ether (0.22 mL, 0.22 mmol) to afford a white precipitate isolated by vacuum filtration. Mp: 220° C. MS (ES+): 370 (M+H).

reactant | 5-[2-(4-benzylpiperazin-1-yl)ethyl]-3-(phenylsulfonyl)-1H-indole | 0.24 mmol, 0.110 g | C(C1=CC=CC=C1)N1CCN(CC1)CCC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C27H29N3O2S
reactant | 1-chloroethylchloroformate | 0.05 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | HCl | 1 N | Cl | ClH
reactant | diethyl ether | 0.22 mmol, 0.22 mL | C(C)OCC | C4H10O
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 3-(phenylsulfonyl)-5-(2-piperazin-1-ylethyl)-1H-indole hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=C(C=C12)CCN1CCNCC1 | InChI=1S/C20H23N3O2S.ClH/c24-26(25,17-4-2-1-3-5-17)20-15-22-19-7-6-16(14-18(19)20)8-11-23-12-9-21-10-13-23;/h1-7,14-15,21-22H,8-13H2;1H
